US08609675B2
To crude 5-chloro-3-iodo-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-10b, 7.1 g) in DME (120 mL) and H2O (15 mL) were added the quinoline boronic acid (2.4 g, 14.1 mmol), PdCl2(dppf)2 (1.0 g, 1.2 mmol) and K3PO4.H2O (5.4 g, 25.6 mmol). The reaction mixture was heated at 60° C. for 2 hours, at which time LC/MS analysis confirmed full consumption of starting material. On cooling, H2O (40 mL) and EtOAc (100 mL) were added and organics were extracted with EtOAc (4×50 mL), dried (Na2SO4), and concentrated in vacuo to give a brown oil. Gradient column chromatography on silica eluting with 10% to 60% EtOAc/hexanes gave 5-chloro-3-(quinolin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-10b) as a light yellow solid (4.1 g, 7.4 mmol, 65% over three steps).

reactant | 5-chloro-3-iodo-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 7.1 g | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2I | C18H32ClIN4O2Si2
reactant | quinoline boronic acid | 14.1 mmol, 2.4 g | N1=C(C=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | K3PO4.H2O | 25.6 mmol, 5.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+].O
solvent | DME | 120 mL | COCCOC | C4H10O2
solvent | H2O | 15 mL | O | H2O
catalyst | PdCl2(dppf)2 | 1.2 mmol, 1.0 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-chloro-3-(quinolin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2C=2C=NC1=CC=CC=C1C2 | C27H38ClN5O2Si2
